US04772600
(S)-2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A solution of (S)-2-(4-chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0166 mole), 1,1'-carbonyldiimidazole (3.21 g, 0.0198 mole) in tetrahydrofuran (100 ml) was stirred at room temperature for two hours with nitrogen bubbling through it. A solution of N,N-dimethylethylenediamine (4.41 g, 0.050 mole) in tetrahydrofuran (5.5 ml) was added and the reaction mixture was stirred at room temperature under nitrogen overnight. The solvents were removed under reduced pressure and the solid was triturated in water (100 ml). The solid was collected by filtration, rinsed once with water, twice with 5% potassium hydroxide solution and twice with water. The solid was recrystallized from hot isopropyl ether to give 1.99 g (32%) of a solid. A 0.5-g sample was dried under high vacuum to give 0.49 g of title compound, mp 130°-133° C.

reactant | (S)-2-(4-chlorophenyl)-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0166 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@H](C(=O)O)C | C15H12ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0198 mole, 3.21 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylethylenediamine | 0.050 mole, 4.41 g | CN(CCN)C | C4H12N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
product | (S)-2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-α-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 1.99 g, 32% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1[C@H](C(=O)NCCN(C)C)C | C19H22ClN5O
